US08895545B2
e) Preparation of 3-(6,7,8,9-tetrahydro-5-oxa-1,9-diaza-benzocyclohepten-3-yl)-acrylic acid
A solution of (6,7,8,9-tetrahydro-5-oxa-1,9-diaza-benzocyclohepten-3-yl)-acrylic acid ethyl ester (0.75 g, 3 mmol) in MeOH (30 mL) and aqueous NaOH (2 mL, 8 mmol, 4N) was refluxed for 23 hours. Upon cooling and addition of water (10 mL), the volatiles were evaporated: the aqueous solution was washed with CH2Cl2 and neutralized (1N HCl). The precipitate was filtered and dried to afford title product (55 mg, 8%). An additional 46 mg (7%) was obtained by extracting the aqueous filtrate with EtOAc. 1H NMR (300 MHz, DMSO-d6, δ): 12.10 (s, br 1H), 7.93 (d, J=1.9 Hz, 1H), 7.46 (d, J=1.9 Hz, 1H), 7.43 (d, J=16 Hz, 1H), 6.75 (t br, J=3.4 Hz, 1H), 6.29 (d, J=16 Hz, 1H), 4.13 (t, J=1H), 3.35 (m, 2H), 1.96 (m, 2H).

reactant | (6,7,8,9-tetrahydro-5-oxa-1,9-diaza-benzocyclohepten-3-yl)-acrylic acid ethyl ester | 3 mmol, 0.75 g | C(C)OC(C(=C)C1=CC2=C(NCCCO2)N=C1)=O | C13H16N2O3
reactant | NaOH | 8 mmol, 4N, 2 mL | [OH-].[Na+]
reactant | water | 10 mL | O | H2O
reactant | MeOH | 30 mL | CO | CH4O
product | 3-(6,7,8,9-tetrahydro-5-oxa-1,9-diaza-benzocyclohepten-3-yl)-acrylic acid | 55 mg, 8% | N1=CC(=CC2=C1NCCCO2)C=CC(=O)O | C11H12N2O3
